US05998433
c) Synthesis of (Z)-N,N-dimethyl-[5-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
(Z)-N,N-Dimethyl-[5-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.148 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | (Z)-N,N-Dimethyl-[5-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.148 g | CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(C=C1)\C=C/C1=CC=CC=C1 | C24H26N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (Z)-N,N-dimethyl-[5-(4-stilbenesulfonyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)S(=O)(=O)C1=CC=C(C=C1)\C=C/C1=CC=CC=C1 | InChI=1S/C24H26N2O3S.ClH/c1-25(2)18-22-16-21-17-26(15-14-24(21)29-22)30(27,28)23-12-10-20(11-13-23)9-8-19-6-4-3-5-7-19;/h3-13,16H,14-15,17-18H2,1-2H3;1H/b9-8-;
